US04845020
N-Hydroxymethylisatin (10 g, 0.056 mol) was added to thionyl chloride (100 ml) and the mixture was heated under reflux for 2 hours. N-Chloromethylisatin (about 11 g) was obtained by distilling the remaining thionyl chloride under reduced pressure. The melting point was 121° to 123° C.

reactant | N-Hydroxymethylisatin | 0.056 mol, 10 g | OCN1C(=O)C(=O)C2=CC=CC=C12 | C9H7NO3
reactant | thionyl chloride | 100 ml | S(=O)(Cl)Cl | Cl2OS
product | N-Chloromethylisatin | about 11 g | ClCN1C(=O)C(=O)C2=CC=CC=C12 | C9H6ClNO2
